US06673780B2
Washout buffer containing; 149 mM sodium chloride, 9.2 mM sodium N-2-hyroxyethylpiperazine-N′-2-ethanesulfonic acid, 1.7 mM fructose, 0.5 mM EGTA, 10 U/mL heparin at pH 7.5 and digestion buffer containing; 6.7 mM potassium chloride, 143 mM sodium chloride, 9.2 mM sodium N-2-hyroxyethylpiperazine-N′-2-ethanesulfonic acid, 5 mM calcium chloride-dihydrate, 1.7 mM fructose, 0.2% bovine serum albumin, 100 U/mL collagenase Type I, 93 U/mL Hyaluronidase, 160 BAEE/mL trypsin inhibitor at pH 7.5 were prepared. Solutions were oxygenate prior to perfusion. Wash buffer containing Dulbecco's Modified Eagle Medium (DMEM) containing 4.5 gm/L D-glucose, 2 mM GlutMax-1, 0.2% BSA, 5% fetal bovine serum (FBS), 12 μM insulin, 1.2 μM hydrocortisone and DMEM+HS solution containing DMEM, 2 mM GlutMax-1, 20 nM delta-antinolevulinic acid, 17.4mM MEM non-essential amino acids, 20% FBS, 12 nM insulin and 1.2 μM hydrocortisone was prepared. DMEM solution containing DMEM, 2 mM GlutMax-1, 20 nM delta-aminolevulinic acid and 17.4 mM MEM non-essential amino acids were prepared. Male Sprague-Dawley rats weighing 125-250 gms were maintained on a standard rodent chow diet and freely given water. On the evening prior to cell isolation, selected healthy animals were fed restricted. The rat was anesthetized with a 50 mg/kg intraperitoneal administration of sodium pentobarbital. Clotting was minimized with intraperitoneal administer of heparin at 1000 IU/kg body weight. The abdominal cavity was opened and the portal vein was surgical isolated. The angiocatheter was inserted into the portal vein at the general location of the lineal branch and connected to a perfusion pump. The in situ perfusion was performed at (˜30 mL/min) with washout buffer, equilibrated with atmosphere gases at a temperature of 37° C. The internal iliac artery was cut to allow pressure equilibration. The caustal area of the diaphragm was excised to provide access to the caudal vena cava and the aorta, using curved forceps both vessels were occluded. About 200 mL of buffer was needed to clear the liver. Digestion buffer was circulated at the same flow rate for about 7 minutes after the initial entry of digestion buffer into the liver. When the liver had significantly increased in size) and consistency, and started to leak perfusate the perfusion was discontinued. The liver was rinsed in situ with sterile saline and surgical removed from the animal to a sterile beaker. Additional digestion solution was dispensed into the beaker and cap with foil. The liver tissue was gently shaken using sterile forceps to flee hepatocyte cells. Cells were filtered through presterilized stainless steels mesh sieves of pore sizes 250, 106 and 75 μm. Cells were diluted in with ice-cold wash buffer, pipetted successively to assist the disassociation of the cells and transferred to a 50 mL tube. The cells are centrifuged for about 4 minutes at 50×g to form a loosely packed pellet. The supernatant is discarded and the pelleted cells were resuspend in ice-cold wash buffer. The washing procedure was repeated twice for a total of three washes. The final pellet was suspended in 50 mL of wash buffer and held on wet-ice. The viability and cell number was checked by diluting duplicate 100 μL aliquots of cell suspension with 400 μL of wash buffer and 500 μL of 0.4% trypan blue in isotonic buffer. The cell concentration was determined in several fields on the hemocytometer. The cell viability (those that exclude die) was 85% or greater. Cells were diluted in DMEM+HS to a final concentration to ensure plating at a density of 150,000 cells/cm2 on collagen coated 6- or 12-well plates. Four hours after plating change the media was changed with DMEM− and culture overnight. Solutions of lovastatin, and illustrative compounds were prepared at 30 mM with DMSO. To obtain a compound solution mixtures were vortexed and sonicated.

reactant | sodium chloride | 149 mM | [Cl-].[Na+]
reactant | fructose | 1.7 mM | OCC(=O)[C@@H](O)[C@H](O)[C@H](O)CO | C6H12O6
reactant | EGTA | 0.5 mM | C(COCCOCCN(CC(=O)O)CC(=O)O)N(CC(=O)O)CC(=O)O | C14H24N2O10
reactant | potassium chloride | 6.7 mM | [Cl-].[K+]
reactant | sodium chloride | 143 mM | [Cl-].[Na+]
reactant | calcium chloride-dihydrate | 5 mM | O.O.[Cl-].[Ca+2].[Cl-]
reactant | fructose | 1.7 mM | OCC(=O)[C@@H](O)[C@H](O)[C@H](O)CO | C6H12O6
reactant | BAEE | CCOC(=O)[C@H](CCCN=C(N)N)NC(=O)C1=CC=CC=C1 | C15H22N4O3
reactant | delta-aminolevulinic acid | 20 nM | NCC(CCC(=O)O)=O | C5H9NO3
reactant | sodium pentobarbital | CCCC(C)C1(C(=O)NC(=O)[N-]C1=O)CC.[Na+]
solvent | trypan blue | 500 μL | CC=1C=C(C=CC1N=NC2=C(C=C3C=C(C=C(C3=C2O)N)S(=O)(=O)O)S(=O)(=O)O)C=4C=CC(=C(C4)C)N=NC5=C(C=C6C=C(C=C(C6=C5O)N)S(=O)(=O)O)S(=O)(=O)O | C34H28N6O14S4
solvent | water | O | H2O
product | lovastatin | CC[C@H](C)C(=O)O[C@H]1C[C@H](C=C2[C@H]1[C@H]([C@H](C=C2)C)CC[C@@H]3C[C@H](CC(=O)O3)O)C | C24H36O5
